US07855216B2
Step 2: 3-(2-Fluoro-4-iodo-phenylamino)-1-(2-hydroxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid amide
To a suspension of 3-(2-fluoro-4-iodo-phenylamino)-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid amide (100 mg, 0.17 mmol) in methanol was added a 1M solution of HCl (0.34 mL, 0.34 mmol). The reaction mixture was heated at reflux and stirred for 1 hour. After cooling to room temperature the reaction mixture was passed through a 5 g SCX-2 cartridge eluting with MeOH then 2M solution of ammonia in MeOH. The appropriate fractions were combined and concentrated to give a residue that was purified by flash chromatography (Si-PPC, MeOH:DCM, gradient 0:100 to 20:80) to provide the title compound as an off-white solid (40 mg, 53%). LCMS (method A): RT=5.78 min, M+H+=441. 1H NMR (DMSO-D6) 3.70 (2H, q, J=5.3 Hz), 4.53 (2H, t, J=5.3 Hz), 4.94 (1H, t, J=5.3 Hz), 6.19 (1H, t, J=8.9 Hz), 7.20 (1H, m), 7.53 (1H, dd, J=11.0, 2.0 Hz), 7.60 (1H, dd, J=6.0, 1.0 Hz), 7.72 (1H, d, J=2.0 Hz), 7.81 (2H, s, br), 8.28 (1H, d, J=6.0 Hz), 8.52 (1H, d, J=1.0 Hz).

reactant | 3-(2-fluoro-4-iodo-phenylamino)-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid amide | 0.17 mmol, 100 mg | FC1=C(C=CC(=C1)I)NC1=C(N(C2=C1C=NC=C2)CCO[Si](C(C)C)(C(C)C)C(C)C)C(=O)N | C25H34FIN4O2Si
reactant | HCl | 0.34 mmol, 0.34 mL | Cl | ClH
solvent | methanol | CO | CH4O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-(2-hydroxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid amide | 40 mg, 53% | FC1=C(C=CC(=C1)I)NC1=C(N(C2=C1C=NC=C2)CCO)C(=O)N | C16H14FIN4O2
